US06124421
Referring to FIG. 1, advantageous synthetic routes for the formation of both bis(4-fluorophenyl)ethyne (BFPE) and 4,4'-bis(4-fluorophenylethynyl)benzene (BFPEB) are shown in accordance with embodiments of the present invention. For example, in synthetic route `A1` of FIG. 1, BFPE is prepared by coupling commercially available 4-bromofluorobenzene with ethynyltrimethylsilane in the presence of an appropriate palladium[0] catalyst in triethylamine (TEA). A reaction vessel is charged with the reagents, catalyst and solvent and heated in an inert atmosphere to approximately 80° C. for about 2 h with stirring. The reaction mixture is cooled to about 50° C. and stirred for about an additional 2 h. Heating is stopped and the reaction mixture allowed to cool to ambient, with stirring continued for about an additional 24 h. An intermediate is obtained and desilylated with a weak base to form 1-ethynyl-4-fluorobenzene.

reactant | bis(4-fluorophenyl)ethyne | FC1=CC=C(C=C1)C#CC1=CC=C(C=C1)F | C14H8F2
reactant | 4-bromofluorobenzene | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | ethynyltrimethylsilane | C(#C)[Si](C)(C)C | C5H10Si
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-ethynyl-4-fluorobenzene | C(#C)C1=CC=C(C=C1)F | C8H5F
